US08084490B2
Catechol (5.09 g, 46.2 mmol) and potassium carbonate were combined in acetonitrile and heated to reflux for one hour. 2-Chloromethyl-3-chloro-1-propene (5.78 g, 46.2 mmol) was added and the reaction was continued at reflux for 24 hours. The solution was cooled to room temperature and filtered. The filtrate was evaporated and the residue was diluted with water and extracted with diethyl ether (3×). The combined organic solution was dried over MgSO4 and concentrated. Chromatography (2% ethyl ether in hexane) yielded 3-methylene-3,4-dihydro-2H-benzo[b][1,4]dioxepine as a colorless oil.

reactant | Catechol | 46.2 mmol, 5.09 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Chloromethyl-3-chloro-1-propene | 46.2 mmol, 5.78 g | ClCC(=C)CCl | C4H6Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-methylene-3,4-dihydro-2H-benzo[b][1,4]dioxepine | C=C1COC2=C(OC1)C=CC=C2 | C10H10O2
